US06762205B1
100 mg of 4-[N-(4-benzyloxybenzyl)amino]phenol was dissolved in 4 ml of pyridine, and 2 ml of acetic anhydride was added thereto, followed by stirring at room temperature for 2 hours. After water was added to the reaction mixture, the product was extracted with ethyl acetate. The organic layer was washed with 5% hydrochloric acid and a saturated aqueous solution of sodium hydrogen carbonate, and dried over anhydrous sodium sulfate. After the solvent was distilled off, the resulting crude product was purified by TLC (using chloroform as the developing solvent) to obtain 114 mg of 4-[N-acetyl-N-(4-benzyloxy-benzyl)amino]phenyl acetate.

reactant | 4-[N-(4-benzyloxybenzyl)amino]phenol | 100 mg | C(C1=CC=CC=C1)OC1=CC=C(CNC2=CC=C(C=C2)O)C=C1 | C20H19NO2
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 4-[N-acetyl-N-(4-benzyloxy-benzyl)amino]phenyl acetate | 114 mg | C(C)(=O)OC1=CC=C(C=C1)N(CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(C)=O | C24H23NO4
